### PR TITLE
chapter13 exe 03 part a ,b,e

### PR DESCRIPTION
**Pull request by DouhanWang**

### CODE REVIEW

File: src/chapter13/exercises/exercise03.lean [hunk 1]
```diff
@@ -14,25 +15,60 @@ For each of the following congruence equations, either find a solution x ∈ ℤ
...
 lemma part_a : ∃x : ℤ, 99 * x ≡ 18 [ZMOD 30] :=
 begin
-  sorry
+  unfold int.modeq,
+  use 2,
+  norm_num,
 end
 
-lemma part_b : ∃x : ℤ, 91 * x ≡ 84 [ZMOD 143] :=
+lemma mul_mod_mul_left (t x y : ℤ) : (t * x) % (t * y) = t * (x % y) := sorry
```
Comment (kbuzzard) [inline src/chapter13/exercises/exercise03.lean:23]: wooah wooah wooah you can't just add something like that with no proof! Is this even true? Let's test!
```
lemma mul_mod_mul_left (t x y : ℤ) : (t * x) % (t * y) = t * (x % y) :=
begin
  slim_check, -- get this tactic with `import tactic.slim_check`
end
```
The `slim_check` tactic finds a counterexample! So any proofs which use this lemma are invalid.

File: src/chapter13/exercises/exercise03.lean [hunk 2]
```diff
@@ -14,25 +15,60 @@ For each of the following congruence equations, either find a solution x ∈ ℤ
...
+  cases this with h h1,
+  have h2 : 13 * (7 * h) % (13 * 11) = 84,
+  { convert h1 using 2,
+    ring, },
+  { rw int.mul_mod_mul_of_pos at h2,
+    { have : (13 : ℤ) ∣ 84, 
+      {use 7 * h % 11,
+       exact h2.symm, },
+      {norm_num at this, },},
+    { norm_num, },},
```
Comment (kbuzzard) [inline src/chapter13/exercises/exercise03.lean:39]: A golfier proof (with stylistically correct brackets):
```
  { rw int.mul_mod_mul_of_pos at h2,
    { have : (13 : ℤ) ∣ 84 := ⟨7 * h % 11, h2.symm⟩, 
      norm_num at this, },
    { norm_num, } },
```

File: src/chapter13/exercises/exercise03.lean [hunk 3]
```diff
@@ -14,25 +15,60 @@ For each of the following congruence equations, either find a solution x ∈ ℤ
...
 end
 
-lemma part_c : ∃x : ℤ, x^2 ≡ 2 [ZMOD 5] :=
+lemma part_c : ¬∃x : ℤ, x^2 ≡ 2 [ZMOD 5] :=
 begin
-  sorry
+  unfold int.modeq,
+  norm_num,
+  by_contra',
+  cases this with h h1,
```
Comment (kbuzzard) [inline src/chapter13/exercises/exercise03.lean:47]: suggestion:
```
  rintro ⟨h, h1⟩,
```

Look carefully at what those tactics are doing and then ask yourself why you're using them.

File: src/chapter13/exercises/exercise03.lean [hunk 4]
```diff
@@ -14,25 +15,60 @@ For each of the following congruence equations, either find a solution x ∈ ℤ
...
+  change h ^ 2 % (5 : ℕ) = 2 % (5 : ℕ) at h1,
```
Comment (kbuzzard) [inline src/chapter13/exercises/exercise03.lean:48]: Wait wait wait you don't even need to go via `%`. Why not this:
```
lemma part_c : ¬∃x : ℤ, x^2 ≡ 2 [ZMOD (5 : ℕ)] :=
begin
  rintro ⟨h, h1⟩,
  rw ← zmod.int_coe_eq_int_coe_iff at h1,
  push_cast at h1,
  revert h1,
  generalize : (h : zmod 5) = t,
  dec_trivial!,
end
```

File: src/chapter13/exercises/exercise03.lean [hunk 5]
```diff
@@ -14,25 +15,60 @@ For each of the following congruence equations, either find a solution x ∈ ℤ
...
+  revert h1,
+  generalize : (h : zmod 5) = t,
+  dec_trivial!,
 end
 
-lemma part_d : ∃x : ℤ, x^2 + x + 1 ≡ 0 [ZMOD 5] :=
+lemma part_d : ¬∃x : ℤ, x^2 + x + 1 ≡ 0 [ZMOD 5] :=
 begin
-  sorry
+  unfold int.modeq,
```
Comment (kbuzzard) [inline src/chapter13/exercises/exercise03.lean:58]: similarly here if you change the ZMOD 5 to ZMOD (5 : nat) then you can go directly to zmod.

**Review by kbuzzard — APPROVED** [review]
Thanks so much! I've made some minor suggestions.
